US06096735
To a solution of 7-chloro-5-[(4-methyl-1-piperazinyl)carbonyl-methyl]-1-(2-methoxy-4-trifluoroacetylaminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.4 g) in dry tetrahydrofuran (20 ml) are added triphenyl-phosphine (0.54 g) and o-(2-hydroxyethoxy)toluene (0.29 g) at room temperature. To the mixture is added dropwise a solution of diethyl azodicarboxylate (0.32 ml) in dry tetrahydrofuran (5 ml), and the mixture is stirred at room temperature for 16 hours. To the mixture is added water, and the mixture is extracted with diethyl ether. The ether layer is dried, evaporated to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=50:1→30:1) to give 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-[2-methoxy-4-{N-[2-(2-methylphenoxy)ethyl]-N-trifluoroacetylamino}benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.46 g) as colorless amorphous.

reactant | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonyl-methyl]-1-(2-methoxy-4-trifluoroacetylaminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.4 g | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)NC(C(F)(F)F)=O)OC)=O)CC(=O)N2CCN(CC2)C)C1 | C27H30ClF3N4O4
reactant | triphenyl-phosphine | 0.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | o-(2-hydroxyethoxy)toluene | 0.29 g | OCCOC1=C(C=CC=C1)C | C9H12O2
reactant | diethyl azodicarboxylate | 0.32 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-[2-methoxy-4-{N-[2-(2-methylphenoxy)ethyl]-N-trifluoroacetylamino}benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.46 g | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)N(C(C(F)(F)F)=O)CCOC2=C(C=CC=C2)C)OC)=O)CC(=O)N2CCN(CC2)C)C1 | C36H40ClF3N4O5
